US06982274B2
4-Methoxy-3-naphthalen-2-yl-1-trityl-1H-indazol-5-ylamine
466 mg of (4-methoxy-3-naphthalen-2-yl-1-trityl-1H-indazol-5-yl)-carbamic acid benzyl ester obtained in Production Example II-38-a was dissolved in 20 ml of a 1:1 solvent mixture of ethyl acetate and methanol. 300 mg of 10% palladium-carbon was added and the mixture was subjected to catalytic hydrogenation at room temperature and normal atmospheric pressure. The reaction mixture was filtered through Celite, and the solvent was removed, to give 252 mg of the title compound.

reactant | (4-methoxy-3-naphthalen-2-yl-1-trityl-1H-indazol-5-yl)-carbamic acid benzyl ester | 466 mg | C(C1=CC=CC=C1)OC(NC=1C(=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC2=CC=CC=C2C=C1)OC)=O | C45H35N3O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | 300 mg | [C].[Pd]
product | 4-Methoxy-3-naphthalen-2-yl-1-trityl-1H-indazol-5-ylamine | 252 mg | COC1=C2C(=NN(C2=CC=C1N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC2=CC=CC=C2C=C1 | C37H29N3O
